US07342026B2
[Quinoline of General Formula (I) in which R1=—CH═CH—Br and R2=H]
0.2 g (6.38×10−4 mol) of 1,1-dibromo-2-(2-quinolyl)ethene obtained from 2-formylquinoline, carbon tetrabromide (CBr4) and triphenylphosphine (PPh3) (Ramirez et al., J. Am. Chem. Soc., 1962, 84: 1745) and 11.28 mg (3.19×10−5 mol, 5 mol %) of iron triacetylacetonate (Fe(acac)3) are dissolved in 3 ml of anhydrous THF and 3 ml of anhydrous N-methylpyrrolidone (NMP) at −10° C., in a dry round-bottomed flask equipped with a magnetic stirrer and a nitrogen inlet. 0.39 ml (7.02×10−4 mol) of a 1.8M solution of isopropyl magnesium bromide in THF is added dropwise to the solution. After stirring for 30 minutes, the reaction is hydrolyzed with 10 ml of water and the solution is brought back to ambient temperature. Next, the two phases are separated and the aqueous phase is extracted with diethyl ether (3×30 ml).

reactant | N-methylpyrrolidone | 3 ml | CN1C(CCC1)=O | C5H9NO
reactant | isopropyl magnesium bromide | C(C)(C)[Mg]Br
reactant | water | 10 ml | O | H2O
reactant | THF | 3 ml | C1CCOC1 | C4H8O
product | Quinoline | N1=CC=CC2=CC=CC=C12 | C9H7N
